US05244725
A resorcinol-formaldehyde resin/diglycidyl ether of bisphenol A addition product was prepared in a lab reactor by a procedure comparable to that employed in Example 1. The reactor was charged with about 31.1 g. of a commercial resorcinol-formaldehyde resin, Penacolite B-19-S, (INDSPEC Chemical Corporation, Pittsburgh, Pa., U.S.A.), 125 ml methyl isobutyl ketone and 0.5 g. triphenylphosphine. Then, 90.4 g diglycidyl ether of bisphenol A (Dow epoxy resin DER-331) was added dropwise in about 0.5 hours. The stirred solution was refluxed for about one hour at about 117° C. and devolatilized at reduced pressure to give a dark amber resorcinol ether compound (RE2) having a 72° C. softening point, and having a 0.9 wt. % residual oxirane oxygen.

reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diglycidyl ether of bisphenol A | 90.4 g | CC(C)(C1=CC=C(C=C1)OCC2CO2)C3=CC=C(C=C3)OCC4CO4 | C21H24O4
reactant | methyl isobutyl ketone | 125 ml | C(C(C)C)C(=O)C | C6H12O
product | resorcinol ether | C1(O)=CC(O)=CC=C1.CCOCC | InChI=1S/C6H6O2.C4H10O/c7-5-2-1-3-6(8)4-5;1-3-5-4-2/h1-4,7-8H;3-4H2,1-2H3
